US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1441)
To a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-1,2,3-triazol-4-yl}methylidene)piperidine (570 mg) in ethanol (50 ml) was introduced HCl gas at 0° C. for 30 minutes. The mixture was stirred under tightly sealed condition for 2 hours, and the solvent and excess hydrogen chloride were removed in vacuo. The residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N HCl, 35/65, v/v) to afford a fraction containing the product. This fraction was treated with a saturated aqueous sodium hydrogen carbonate solution, and the liberated base was extracted with ethyl acetate to afford the free base of the title compound.

reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-1,2,3-triazol-4-yl}methylidene)piperidine | 570 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(N=C1)CCCC(=O)OCC | C27H33FN4O4S
reactant | HCl | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({2-[3-(ethoxycarbonyl)propyl]-2H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN(N=C1)CCCC(=O)OCC)=O | InChI=1S/C25H31FN4O3S.ClH/c1-2-33-23(31)8-5-12-30-27-15-19(28-30)14-18-16-29(13-11-22(18)34)24(25(32)17-9-10-17)20-6-3-4-7-21(20)26;/h3-4,6-7,14-15,17,22,24,34H,2,5,8-13,16H2,1H3;1H/b18-14+;
